US08003800B2
To a solution of KOtBu (50 g, 446 mmol) in THF (400 mL) is added during 30 min ethylformate (92 g, 1.25 mol). Strong gas evolution occurs. The mixture is cooled during the addition with a water bath at 10° C. After complete addition, the mixture is stirred until the gas evolution ceases (15 min). The mixture is cooled with ice at 0° C. and a mixture of 5-methyl-2-hexanone (34.25 g, 300 mmol) and ethylformate (41 g, 0.55 mol) is added slowly during 30 min. The mixture is stirred for 15 h, diluted with EA (500 mL) and washed with 1 N aq. HCl (100 mL), 1 M aq. NaH2PO4 solution (100 mL) and brine (100 mL). The organic extract is dried (MgSO4), filtered and evaporated to give crude 4-hydroxy-3-isobutyl-but-3-en-2-one (28 g) which is used without further purification; LC-MS: tR=0.80 min, [M+1]=143.39.

reactant | KOtBu | 446 mmol, 50 g | CC(C)(C)[O-].[K+]
reactant | ethylformate | 1.25 mol, 92 g | C(C)OC=O | C3H6O2
reactant | 5-methyl-2-hexanone | 300 mmol, 34.25 g | CC(CCC(C)=O)C | C7H14O
reactant | ethylformate | 0.55 mol, 41 g | C(C)OC=O | C3H6O2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | EA | 500 mL | CC(OCC)=O | C4H8O2
product | 4-hydroxy-3-isobutyl-but-3-en-2-one | 28 g | OC=C(C(C)=O)CC(C)C | C8H14O2
